US06673511B1
At 20 to 30° C., acetic anhydride was added to a mixture of 9.29 g of N,N-bis(2-hydroxyethyl)-2-(methoxycarbonyl)ethylamine, 12.8 g of triethylamine, 50 mg of 4-dimethylaminopyridine and 50 ml of THF and the resulting mixture was stirred for 20 hours. Water was added to terminate the reaction. The reaction mixture was extracted with ethyl acetate. The organic layer was then washed with water and dried over anhydrous sodium sulfate. After concentration under reduced pressure, the residue was purified by distillation under reduced pressure, whereby 13.2 g of N,N-bis(2-acetoxyethyl)-2-(methoxycarbonyl)ethylamine was obtained (boiling point: 118 to 123° C./21 Pa, yield: 99%).

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | N,N-bis(2-hydroxyethyl)-2-(methoxycarbonyl)ethylamine | 9.29 g | OCCN(CCO)CCC(=O)OC | C8H17NO4
reactant | triethylamine | 12.8 g | C(C)N(CC)CC | C6H15N
reactant | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Water | O | H2O
product | N,N-bis(2-acetoxyethyl)-2-(methoxycarbonyl)ethylamine | 13.2 g, yield: 99% | C(C)(=O)OCCN(CCOC(C)=O)CCC(=O)OC | C12H21NO6
